US09290454B2
DBU (4.50 equiv.) was added to a stirred, capped mixture of methyl 5-(2-benzyl-6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (1 eq), Pd(OAc)2 (0.05 equiv.), molybdenum hexacarbonyl (1.0 equiv.) and (R)-1-(4-fluorophenyl)ethylamine (1.20 equiv.) in THF (0.2 M) and the mixture was stirred at 150° C. for 30 min. in a microwave. The mixture was purified by preparative TLC [1 mm] eluting with 50% EtOAc/hexanes to afford (R)-methyl 5-(2-benzyl-6-((1-(4-fluorophenyl)ethyl)carbamoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate.

reactant | DBU | 4.50 equiv. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl 5-(2-benzyl-6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 1 eq | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC)Br)=O | C22H22BrNO3
reactant | (R)-1-(4-fluorophenyl)ethylamine | 1.20 equiv. | FC1=CC=C(C=C1)[C@@H](C)N | C8H10FN
reactant | THF | 0.2 M | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.05 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | molybdenum hexacarbonyl | 1.0 equiv. | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
product | (R)-methyl 5-(2-benzyl-6-((1-(4-fluorophenyl)ethyl)carbamoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC)C(N[C@H](C)C1=CC=C(C=C1)F)=O)=O | C31H31FN2O4
